US07456165B2
Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-(4-morpholinyl)-3-oxopropyl)-1,3-oxazol-2-yl)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate.
Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-(4-morpholinyl)-3-oxopropyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (610 mg, 1.00 mMol)) was dissolved in 15 ml of THF and 5 ml of methanol. To this reaction was added 83 mg of 10% palladium on carbon. The reaction was placed under hydrogen atmosphere (1 atm, balloon pressure) and stirred at room temperature for 22 hrs. The reaction was filtered through a celite plug and rinsed with THF. Volatiles were removed from the filtrate in vacuuo to yield 569 mg (93%) of the title compound as a yellow solid. LC-MS: Shimadzu Analytical HPLC using Discovery VP software: % A=10% methanol, 90% water, 0.1% trifluoroacetic acid; % B=90% methanol, 10% water, 0.1% trifluoroacetic acid; Initial % B=50; Final % B=100; Gradient=3 min; Runtime=4 min; Flow rate=5 ml/min; Wavelength=220 nm; Column=Phenomenex Luna 3.0 mm×50 mm S10. Retention Time=2.55 min, MS m/z 612(MH+).

reactant | Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-(4-morpholinyl)-3-oxopropyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 1.00 mMol, 610 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C=2OC(=CN2)CCC(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)OC | C36H39N3O6
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | 83 mg | [Pd] | Pd
product | Methyl 13-cyclohexyl-3-methoxy-6-(5-(3-(4-morpholinyl)-3-oxopropyl)-1,3-oxazol-2-yl)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 569 mg, 93% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)C=2OC(=CN2)CCC(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)OC | C36H41N3O6
